US04349552
To the above solution of 2-propylthioethyl isocyanate was added a solution of 5-fluorouracil (2.60 g.) in N,N-dimethylacetamide (20 ml.) at 80° C. and stirred for further 8 hours at the same temperature. The resultant mixture was diluted with ethyl acetate (200 ml.), washed with water (each 30 ml., 3 times), dried over magnesium sulfate, treated with activated charcoal, filtered and evaporated in vacuo. The residue was recrystallized from ethyl acetate to give 1-[N-(2-propylthioethyl)carbamoyl]-5-fluorouracil.

reactant | 2-propylthioethyl isocyanate | C(CC)SCCN=C=O | C6H11NOS
reactant | 5-fluorouracil | 2.60 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-[N-(2-propylthioethyl)carbamoyl]-5-fluorouracil | C(CC)SCCNC(=O)N1C(=O)NC(=O)C(=C1)F | C10H14FN3O3S
